US09303041B2
To a solution of tert-butyl 3-cyano-4-methylpiperazine-1-carboxylate, prepared as described in Step A, (10.5 g, 47 mmol) in methanol (200 mL) was added metallic nickel (10 g) and triethylamine (5 mL). The mixture was stirred at ambient temperature overnight under atmosphere of hydrogen gas (50 psi). Upon consumption of tert-butyl 3-cyano-4-methylpiperazine-1-carboxylate, the mixture was filtered, and the filtrate was concentrated under vacuum to provide crude tert-butyl 3-(aminomethyl)-4-methylpiperazine-1-carboxylate used in the next step without purification.

reactant | tert-butyl 3-cyano-4-methylpiperazine-1-carboxylate | C(#N)C1CN(CCN1C)C(=O)OC(C)(C)C | C11H19N3O2
reactant | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 200 mL | CO | CH4O
catalyst | nickel | 10 g | [Ni] | Ni
product | tert-butyl 3-(aminomethyl)-4-methylpiperazine-1-carboxylate | NCC1CN(CCN1C)C(=O)OC(C)(C)C | C11H23N3O2
